US03956269
Into a 25 ml round bottom flask was weighed 5 grams (.0237 mole) of 4-t-butylazo-4-cyanovaleric acid and then 15 ml of benzene and 2 ml of thionyl chloride were added. The acid dissolved and the solution was stirred for 4 hours at 25°C ± 2°C (protected from the atmosphere by a CaCl2 tube). At the end of the starting period the benzene and excess thionyl chloride evaporated under reduced pressure leaving 5.35 grams (98.8% yield) of 4-t-butylazo-4-cyanovaleryl chloride.

reactant | 4-t-butylazo-4-cyanovaleric acid | .0237 mole, 5 grams | C(C)(C)(C)N=NC(CCC(=O)O)(C)C#N | C10H17N3O2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 4-t-butylazo-4-cyanovaleryl chloride | 5.35 grams, 98.8% yield | C(C)(C)(C)N=NC(CCC(=O)Cl)(C)C#N | C10H16ClN3O
